US04927838
A solution of borane in tetrahydrofuran (1M; 10 mL) was added to a solution of 1-butyl-5-methoxy-2-naphthalenecarboxylic acid in tetrahydrofuran (15 mL) at 0°-5° C. and the mixture was stirred at room temperature for 3 hours. After the solvent was evaporated off, the reaction was diluted with 1N sodium hydroxide and extracted with dichloromethane. The organic layer was washed with brine then was dried (MgSO4), evaporated and crystallized from hexane to give 1.58 g of 1-butyl-5-methoxy-2-naphthalenemethanol, mp 100°-102° C. Recrystallization of a portion from diethyl ether-hexane afforded the pure alcohol, 101°-102° C. Anal. Calcd for C16H20O2 : C, 78.65; H, 8.25 Found: C, 78.36; H, 8.33

reactant | borane | B | BH3
reactant | 1-butyl-5-methoxy-2-naphthalenecarboxylic acid | C(CCC)C1=C(C=CC2=C(C=CC=C12)OC)C(=O)O | C16H18O3
solvent | tetrahydrofuran | 1M, 10 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | 1-butyl-5-methoxy-2-naphthalenemethanol | 1.58 g | C(CCC)C1=C(C=CC2=C(C=CC=C12)OC)CO | C16H20O2
